US06211140B1
Preparation of N,N,N′,N′-tetra(2-hydroxyethyl)hexylenediamine
N,N-Diethanolamine (1331.3 g, 11.36 mol) is placed in a 5000 ml three-necked round bottomed flask fitted with a condenser, addition funnel, internal thermometer, mechanical stirrer and argon inlet. 1,6-Dibromohexane (1386 g, 5.68 mol) is added via the addition funnel slowly to keep the reaction temperature below 60° C. After addition is completed the mixture is heated to 55-60° C. for 18 h. The reaction mixture is poured into a 6 L Erlenmeyer flask containing a solution of methanol (1.5 L) and sodium hydroxide (227.2 g, 5.68 mol). White salts begin to precipitate. After 4 h, the mixture is filtered. The filtrate is concentrated under reduced pressure to leave the product as a viscous oil.

reactant | N,N-Diethanolamine | 11.36 mol, 1331.3 g | C(CO)NCCO | C4H11NO2
reactant | 1,6-Dibromohexane | 5.68 mol, 1386 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 5.68 mol, 227.2 g | [OH-].[Na+]
solvent | methanol | 1.5 L | CO | CH4O
product | N,N,N′,N′-tetra(2-hydroxyethyl)hexylenediamine | OCCN(CCCCCCN(CCO)CCO)CCO | C14H32N2O4
